US07919504B2
Ethyl (5-(5-((tert-butoxycarbonyl)((2S)-2-((tert-butoxycarbonyl)amino)-3-(4-(trifluoromethyl)phenyl)propyl)amino)-1,3,4-thiadiazol-2-yl)-2-nitrophenyl)acetate.
To a 500 mL round bottom flask was added diethyl 2-(5-(5-((S)-2-(tert-butoxycarbonyl)-3-(4-(trifluoromethyl)phenyl)propyl-boc-amino)-1,3,4-thiadiazol-2-yl)-2-nitrophenyl)malonate (3.60 g, 4.60 mmol), lithium chloride (0.390 g, 9.21 mmol), distilled water (0.0830 g, 4.60 mmol) and 50 mL DMSO. The reaction mixture was heated to 100° C. and stirred at this temperature for 3 hours. LC-MS indicated the reaction was not complete. Another 4 equivalents of LiCl was added. The reaction mixture was stirred at 100° C. overnight. The reaction mixture was cooled to ambient temperature, and 200 mL EtOAc and 200 mL brine were added. The organic portion was separated. The aqueous portion was extracted with EtOAc. The combined organic portions were washed with brine and dried over sodium sulfate. The crude mixture (3.40 g) was used in the following reaction without further purification.

reactant | diethyl 2-(5-(5-((S)-2-(tert-butoxycarbonyl)-3-(4-(trifluoromethyl)phenyl)propyl-boc-amino)-1,3,4-thiadiazol-2-yl)-2-nitrophenyl)malonate | 4.60 mmol, 3.60 g | C(C)(C)(C)OC(=O)[C@H](CN(C1=NN=C(S1)C=1C=CC(=C(C1)C(C(=O)OCC)C(=O)OCC)[N+](=O)[O-])C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C(F)(F)F | C35H41F3N4O10S
reactant | lithium chloride | 9.21 mmol, 0.390 g | [Cl-].[Li+]
reactant | water | 4.60 mmol, 0.0830 g | O | H2O
reactant | DMSO | 50 mL | CS(=O)C | C2H6OS
reactant | LiCl | 4 equivalents | [Li+].[Cl-]
solvent | brine | 200 mL | [Cl-].[Na+].O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | Ethyl (5-(5-((tert-butoxycarbonyl)((2S)-2-((tert-butoxycarbonyl)amino)-3-(4-(trifluoromethyl)phenyl)propyl)amino)-1,3,4-thiadiazol-2-yl)-2-nitrophenyl)acetate | C(C)(C)(C)OC(=O)N(C1=NN=C(S1)C=1C=CC(=C(C1)CC(=O)OCC)[N+](=O)[O-])C[C@H](CC1=CC=C(C=C1)C(F)(F)F)NC(=O)OC(C)(C)C | C32H38F3N5O8S
